US07119102B2
3-Cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridine-2-thiol morpholine salt (15.00 g, 53.69 mmol) was suspended in 15 mL of dry DMF. 2-Bromoacetamide (7.74 g, 55.0 mmol) was added. This mixture was stirred at room temperature for 30 min and quenched with water. The resultant solid was collected by filtration, washed with water and dried under high vacuum for 24 h to give 2-(3-cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide as a pale colored solid (13.22 g, 99%)

reactant | 3-Cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridine-2-thiol morpholine salt | 53.69 mmol, 15.00 g | N1CCOCC1.C(#N)C1=C(NC(C=C1C1CC1)=O)S
reactant | 2-Bromoacetamide | 55.0 mmol, 7.74 g | BrCC(=O)N | C2H4BrNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(3-cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide | 13.22 g, 99% | C(#N)C1=C(NC(C=C1C1CC1)=O)SCC(=O)N | C11H11N3O2S
